US08236826B2
Production of 1-(3,4-dimethoxybenzyl)-3-{3-methyl-4-[5-(4-trifluoromethylphenylethynyl)pyridin-2-yloxy]phenyl}tetrahydropyrimidin-2-one
To a solution of 1-[4-(5-bromopyridin-2-yloxy)-3-methylphenyl]-3-(3,4-dimethoxybenzyl)tetrahydropyrimidin-2-one (0.3 g, 0.59 mmol) in N-methylpyrrolidone (10 mL) were added bis(triphenylphosphine)palladium dichloride (20 mg, 0.03 mmol), copper iodide (11 mg, 0.059 mmol), 4-ethynyl-α,α,α-trifluorotoluene (0.14 mL, 0.88 mmol) and triethylamine (0.14 mL, 10 mmol) under a nitrogen atmosphere. The resulting solution was stirred for 3 hours at 110 to 120° C. After being left to cool, water was added to the reaction solution. The resulting solution was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then evaporated, and the residue was purified by silica gel chromatography (n-hexane:ethyl acetate=4:1→1:1), to thereby yield 0.28 g of the title compound.

reactant | 1-[4-(5-bromopyridin-2-yloxy)-3-methylphenyl]-3-(3,4-dimethoxybenzyl)tetrahydropyrimidin-2-one | 0.59 mmol, 0.3 g | BrC=1C=CC(=NC1)OC1=C(C=C(C=C1)N1C(N(CCC1)CC1=CC(=C(C=C1)OC)OC)=O)C | C25H26BrN3O4
reactant | 4-ethynyl-α,α,α-trifluorotoluene | 0.88 mmol, 0.14 mL | C(#C)C1=CC=C(C=C1)C(F)(F)F | C9H5F3
reactant | triethylamine | 10 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
catalyst | bis(triphenylphosphine)palladium dichloride | 0.03 mmol, 20 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.059 mmol, 11 mg | [Cu](I)I
product | 1-(3,4-dimethoxybenzyl)-3-{3-methyl-4-[5-(4-trifluoromethylphenylethynyl)pyridin-2-yloxy]phenyl}tetrahydropyrimidin-2-one | COC=1C=C(CN2C(N(CCC2)C2=CC(=C(C=C2)OC2=NC=C(C=C2)C#CC2=CC=C(C=C2)C(F)(F)F)C)=O)C=CC1OC | C34H30F3N3O4
